US07763657B2
Step 4: (3-Chloro-4-methanesulfonylamino-5-vinylbenzyl)carbamic acid tert-butyl ester
(4-Amino-3-chloro-5-vinylbenzyl)carbamic acid tert-butyl ester (40.2 mg, 0.14 mmol), methanesulfonyl chloride (5 eq, 0.71 mmol, 55.15 μl), and triethylamine (3 eq, 0.42 mmol, 58.34 μl) were added in methylene chloride. The reaction mixture was stirred for 5 hr. The reaction mixture was purified with similar procedure to step 5 of Example 8 to obtain a title compound (30.7 mg, 59.83%).

reactant | (4-Amino-3-chloro-5-vinylbenzyl)carbamic acid tert-butyl ester | 0.14 mmol, 40.2 mg | C(C)(C)(C)OC(NCC1=CC(=C(C(=C1)C=C)N)Cl)=O | C14H19ClN2O2
reactant | methanesulfonyl chloride | 0.71 mmol, 55.15 μl, 5 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.42 mmol, 58.34 μl, 3 eq | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (3-Chloro-4-methanesulfonylamino-5-vinylbenzyl)carbamic acid tert-butyl ester | 30.7 mg, 59.83% | C(C)(C)(C)OC(NCC1=CC(=C(C(=C1)C=C)NS(=O)(=O)C)Cl)=O | C15H21ClN2O4S
